US06245742B1
Preparation of Ac—Tyr(PO3Et2)—Val—Asn—Val—NH2 (FCE 29145) (SEQ ID No. 13)
The title compound was obtained by analogous manner as described in Example 18, but using BocTyr(PO3Et2)OH. The N-acetylation was performed by treatment of crude H—Tyr(PO3Et2)—Val—Asn—Val—NH2 with 1.5 equiv. of DIEA and 5 equiv. of acetic anhydride in DMF for 2 h at 25° C. The final compound was obtained with chromatographic purity (HPLC) of 90.0%. Amino acid ratios: Val 2 (2); Asx 1.17 (1); Tyr 0.87 (1). Peptide content: 83%. FAB mass spectroscopy; m/z 671 [M—H]+. (MW 670.1)

reactant | BocTyr(PO3Et2)OH | N([C@@H](CC1=CC=C(C=C1)OP(=O)(OCC)OCC)C(=O)O)C(=O)OC(C)(C)C | C18H28NO8P
reactant | H—Tyr(PO3Et2)—Val—Asn—Val—NH2 | N[C@@H](CC1=CC=C(C=C1)OP(=O)(OCC)OCC)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](C(C)C)C(=O)N | C27H45N6O9P
reactant | DIEA | 1.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 5 equiv. | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | CN(C)C=O | C3H7NO
product | Ac—Tyr(PO3Et2)—Val—Asn—Val—NH2 | N([C@@H](CC1=CC=C(C=C1)OP(=O)(OCC)OCC)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](C(C)C)C(=O)N)C(=O)C | C29H47N6O10P
